US04001426
2-[4'-(2-Diethylaminoethoxy)phenyl]-3-(3',5'-dimethyl-4'-methoxybenzoyl)benzofuran
Reaction of 2-[4'-(2-bromoethoxy)phenyl]-3-(3',5'-dimethyl-4-methoxybenzoyl)benzofuran with diethylamine as described in Example 11 gave the title compound.

reactant | 2-[4'-(2-bromoethoxy)phenyl]-3-(3',5'-dimethyl-4-methoxybenzoyl)benzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)C)OC)C)=O)C=CC=C2 | C26H23BrO4
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-[4'-(2-Diethylaminoethoxy)phenyl]-3-(3',5'-dimethyl-4'-methoxybenzoyl)benzofuran | C(C)N(CCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)C)OC)C)=O)C=CC=C2)CC | C30H33NO4
